US04569907
Preparation of Ac-Pro-Leu-Gly-S-Leu-Leu-Gly-OC2H5
To a solution of Ac-Pro-Leu-Gly-OH (0.7 g, 2.1 mmol), HS-Leu-Leu-Gly-OC2H5 (0.6 g, 1.7 mmol) and HBT (0.26 g, 1.7 mmol) in 15 ml dimethylformamide was added EDC (0.4 g, 2.1 mmol). The solution was stirred at room temperature overnight. The solvent was removed in vacuo and the residue partitioned between salt water and ethyl acetate. The ethyl acetate layer was washed consecutively with dilute sodium bicarbonate in salt (NaCl) water, dilute hydrochloric acid in salt water, salt water, 1.0 mM cupric sulfate in salt water (to remove any mercapto products) and finally salt water. The ethyl acetate was dried over magnesium sulfate. The magnesium sulfate was removed by filtration and the filtrate concentrated in vacuo, yielding 0.8 g (73%) glassy residue of crude thiopeptolide product. A 100 mg sample of this crude product was purified by low pressure C18 column chromatography. The purified thiopeptolide, had an acceptable amino acid analysis, a consistent mass spectrum and a single peak on HPLC analysis. Anal. Calcd. for C31H 53 N5O8S.3H2O: C, 52.4; H, 8.3; N. 9.9. Found: C, 52.5; H, 7.9; N. 9.9.

reactant | Ac-Pro-Leu-Gly-OH | 2.1 mmol, 0.7 g | N1([C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)CCC1)C(=O)C | C15H25N3O5
reactant | HS-Leu-Leu-Gly-OC2H5 | 1.7 mmol, 0.6 g | SN[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC | C16H31N3O4S
reactant | EDC | 2.1 mmol, 0.4 g
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Ac-Pro-Leu-Gly-S-Leu-Leu-Gly-OC2H5 | 0.8 g, 73% | N1([C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)SN[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC)CCC1)C(=O)C | C31H54N6O8S
